US04056525
For example, 2,7-dichloro-5-(o-chlorophenyl)-3-methoxy-3H-1,4-benzodiazepine is treated in a mixture of tetrahydrofuran and ethanol, at room temperature with sodium ethoxide. After addition of water, the reaction mixture is partitioned with diethyl ether, and the organic phase is then dried, concentrated and the crystalline product so formed, recovered to give 7-chloro-5-(o-chlorophenyl)-2-ethoxy-2-methoxy-3H-1,4-benzodiazepine.

reactant | 2,7-dichloro-5-(o-chlorophenyl)-3-methoxy-3H-1,4-benzodiazepine | ClC1=NC2=C(C(=NC1OC)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl | C16H11Cl3N2O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | water | O | H2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 7-chloro-5-(o-chlorophenyl)-2-ethoxy-2-methoxy-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(N2)(OC)OCC)C2=C(C=CC=C2)Cl)C1 | C18H18Cl2N2O2
